Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Macrobid / shrimp
 
Attending: ___
 
Chief Complaint:
Loss of consciousness and right-sided weakness. 
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms. ___ is a ___ year old female with atrial fibrillation on
rivaroxaban who presents with an episode of loss of 
consciousness
and left sided weakness. Her daughter states that Ms. ___ came
over to her house at around 1pm. They were sitting outside, and
her daughter went inside to make lunch around 115pm. At 130pm,
she looked outside and saw that Ms. ___ had dropped her glass 
of
ice water. Her daughter went outside and found Ms. ___ slumped
over to the left. She did not respond to voice or light
stimulation. Her daughter then used more vigorous stimulation,
and Ms. ___ only groaned but did not open her eyes. EMS was
called, and when they arrived, Ms. ___ would still only groan 
to
vigorous stimulation but would not open her eyes or interact. 
Her
daughter feels that during this time, her left arm was weaker 
and
more floppy than the right, although they were both slack. In
addition, she feels that Ms. ___ had a slight left sided facial
droop, although was not sure because she was lying on that side.
She was placed in the ambulance and taken to an OSH. During the
ambulance ride, she was trying to open her eyes, and when they
reached the OSH, she was more alert. She started saying that she
was "going to go home" and that her "father was waiting for 
her",
but her father has been dead for ___ years. A head CT and labs
were unremarkable, and she was transferred to ___. En route to
___, Ms. ___ was acting more appropriately and was basically
back to herself.

Of note, apparently Ms. ___ had another episode earlier this
week. Her ___ came into her apartment and found her sitting in a
chair. She had a difficult time waking her up, but Ms. ___ was
apparently appropriate when she did and her vitals were within
normal. Therefore, her daughter was not told about this event.
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. Denies focal weakness,
numbness, parasthesiae. 
 
On general review of systems, she has had some diarrhea.
Otherwise, she denies recent fever or chills. No night sweats or
recent weight loss or gain. Denies cough, shortness of breath.
Denies chest pain or tightness, palpitations. Denies nausea,
vomiting, constipation or abdominal pain. No recent change in
bowel or bladder habits. No dysuria. Denies arthralgias or
myalgias. Denies rash. 

 
Past Medical History:
Atrial fibrillation on rivaroxaban, no history of strokes
Diabetes
Rheumatoid arthritis
Hypertension
Congestive heart failure
 
Social History:
___
Family History:
Mother had a stoke in old age. 
 
Physical Exam:
General: Awake, cooperative, NAD. 
HEENT: NC/AT
Pulmonary: No increased WOB
Cardiac: RRR
Abdomen: soft
Extremities: significant pitting edema of bilateral ___: no rashes or lesions noted. 
 
Neurologic: 
-Mental Status: Alert, oriented x 3. Attentive, able to name 
days
of the week backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. She was able to name both high and low
frequency objects. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of neglect. 
 
-Cranial Nerves: 
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus. Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally. 
IX, X: Palate elevates symmetrically. 
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline with normal strength 
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.  
  Delt Bic Tri WrE FFl  IO IP Quad Ham TA Gastroc 
L  4    ___   ___   5    5  5     5 
R  4    ___   ___   5    5  5     5
 
-Sensory: No deficits to light touch, cold sensation, vibratory
sense.
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L 2   2    3    Tr  0 
R 2   2    3    Tr  0 
Plantar response was flexor bilaterally. 
 
-Coordination: No intention tremor
 
-Gait: deferred
 
Pertinent Results:
   
___ 11:26PM URINE  HOURS-RANDOM
___ 11:26PM URINE  HOURS-RANDOM
___ 11:26PM URINE  UHOLD-HOLD
___ 11:26PM URINE  GR HOLD-HOLD
___ 11:26PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:26PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 11:26PM URINE  BLOOD-NEG NITRITE-POS PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM 
___ 11:26PM URINE  RBC-7* WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-6
___ 08:37PM   COMMENTS-GREEN
___ 08:37PM   LACTATE-1.5
___ 08:00PM   GLUCOSE-115* UREA N-17 CREAT-1.0 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-27 ANION GAP-16
___ 08:00PM   estGFR-Using this
___ 08:00PM   ALT(SGPT)-9 AST(SGOT)-17 ALK PHOS-106* TOT 
BILI-0.6
___ 08:00PM   cTropnT-<0.01
___ 08:00PM   ALBUMIN-4.1 CALCIUM-9.7 PHOSPHATE-3.4 
MAGNESIUM-1.8 CHOLEST-138
___ 08:00PM   %HbA1c-8.4* eAG-194*
___ 08:00PM   TRIGLYCER-98 HDL CHOL-63 CHOL/HDL-2.2 
LDL(CALC)-55
___ 08:00PM   TSH-2.1
___ 08:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:00PM   WBC-5.9 RBC-4.36 HGB-11.4 HCT-36.8 MCV-84 
MCH-26.1 MCHC-31.0* RDW-15.2 RDWSD-46.5*
___ 08:00PM   NEUTS-54.0 ___ MONOS-6.6 EOS-2.7 
BASOS-0.2 IM ___ AbsNeut-3.21 AbsLymp-2.15 AbsMono-0.39 
AbsEos-0.16 AbsBaso-0.01
___ 08:00PM   PLT COUNT-152
___ 08:00PM   ___ PTT-32.0 ___
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with HTN, CHF, DM, and 
paroxysmal atrial fibrillation who presents from an outside 
hospital with LOC and R sided weakness. 

#Neuro: upon admission to ___, her neurological exam was 
non-focal. NCHCT and CT/CTA head/neck did not show acute 
intracranial abnormality. MRI did not show a stroke but did show 
diffuse white matter disease likely ___ chronic microangiopathy. 
She was continued on rivaraoxaban and aspirin per outpatient 
cardiologist. Differential of her presentation includes seizure 
given the large burden of white matter disease vs vasovagal 
syncope (dehydration and immediately drinking a glass of cold 
water leading to a vagal response) vs toxic-metabolic (?UTI). An 
extended routine EEG was negative. 

#CV: Ms. ___ had an acute exacerbation her CHF with worsening 
dyspnea the night of ___ likely ___ going into afib with RVR 
that was treated with metoprolol. A chest radiograph showed 
pulmonary vascular congestion. She was diuresed 5L and 
electrolytes were repleted prn.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 15 mg PO DAILY 
2. Metoprolol Tartrate 12.5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. rOPINIRole 2 mg PO BID 
6. GlipiZIDE XL 5 mg PO DAILY 
7. Pravastatin 40 mg PO QPM 
8. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
9. Furosemide 40 mg PO DAILY 
10. Vitamin D Dose is Unknown  PO 1X/WEEK (___) 
11. Potassium Chloride 10 mEq PO DAILY 
12. Gabapentin 200 mg PO TID 

 
Discharge Medications:
1. Lisinopril 10 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Gabapentin 200 mg PO TID 
4. Metoprolol Tartrate 12.5 mg PO BID 
5. Potassium Chloride 10 mEq PO DAILY 
Hold for K > 
6. Pravastatin 40 mg PO QPM 
7. Rivaroxaban 15 mg PO DAILY 
8. rOPINIRole 2 mg PO BID 
9. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
10. GlipiZIDE XL 5 mg PO DAILY 
11. Vitamin D ___ UNIT PO 1X/WEEK (___) 
12. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Loss of consciousness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Neuro: non-focal

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for loss of consciousness and perhaps left 
sided weakness that was initially concerning for a transient 
ischemic attack. Your MRI of your head did not show a stroke but 
did show extensive white matter disease. Because of this, a 
seizure workup was also performed. The EEG read was negative for 
seizures. 

You were also found to have some mild volume overload on your 
chest x-ray likely from your congestive heart failure. During 
your second night in the hospital, you had an episode of atrial 
fibrillation with rapid ventricular rate where you heart rate 
went into the 150s. This was treated with metoprolol, and you 
did well. Unfortunately, this likely precipitated a heart 
failure exacerbation, which caused you to have some trouble 
breathing thus requiring oxygen. You were diuresed with IV Lasix 
and did well. 

None of your home medications were changed. Please follow up 
with your outpatient primary care physician. You will need a set 
of labs drawn tomorrow to check your potassium level. Please 
also follow up with your cardiologist.

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___